US04994465
Step A: Preparation of N-benzyl-2,2-diphenyl ethyl-amine.
To a solution of 2,2-diphenyl ethyl amine (10.0 g, 0.051 mol) and triethyl amine (20.5 g, 0.203 mol) in 200 mL tetrahydrofuran was added a solution of benzyl chloride (7.1 g, 0.056 mol) in 100 mL tetrahydrofuran. The reaction mixture was heated to reflux for 48 hours, then cooled to room temperature and concentrated in vacuo. The residue was taken up in 300 mL chloroform and washed with 3×100 mL water. The organic layer was then stirred with 100 mL 2N NaOH solution for 30 minutes. The layers were separated and the aqueous layer was extracted further with 2×100 mL chloroform. The chloroform layers were combined, dried over sodium sulfate, filtered, and concentrated under vacuum. The resulting oil was further purified by chromatography, eluting with hexane/ethyl acetate. 5.8 g of a clear oil was isolated which was characterized by analytical and spectroscopic properties as the hydrochloride salt, mp 250-253° C.

reactant | 2,2-diphenyl ethyl amine | 0.051 mol, 10.0 g | C1(=CC=CC=C1)C(CN)C1=CC=CC=C1 | C14H15N
reactant | triethyl amine | 0.203 mol, 20.5 g | C(C)N(CC)CC | C6H15N
reactant | benzyl chloride | 0.056 mol, 7.1 g | C(C1=CC=CC=C1)Cl | C7H7Cl
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | N-benzyl-2,2-diphenyl ethyl-amine | 5.8 g | C(C1=CC=CC=C1)NCC(C1=CC=CC=C1)C1=CC=CC=C1 | C21H21N
